US07700641B2
B. Synthesis of 2,2-dimethyl-2,3-dihydrobenzofuran-6-ol
To a solution of 6-(benzyloxy)-2,2-dimethylbenzofuran-3(2H)-one (0.85 g, 3.20 mmol) in methanol (100 mL) was added palladium hydroxide (0.22 g, 20 wt. % loading, 0.32 mmol). The resulting mixture was hydrogenated for 16 hours under 60 psi of hydrogen. The reaction mixture was filtered through celite, washed with methanol. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/5) to give the title compound (0.46 g, 88%): 1H NMR (300 MHz, CDCl3) δ 6.92 (d, 1H), 6.30-6.21 (m, 2H), 4.77 (s, 1H), 2.90 (s, 2H), 1.44 (s, 6H).

reactant | 6-(benzyloxy)-2,2-dimethylbenzofuran-3(2H)-one | 3.20 mmol, 0.85 g | C(C1=CC=CC=C1)OC1=CC2=C(C(C(O2)(C)C)=O)C=C1 | C17H16O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium hydroxide | 0.32 mmol, 0.22 g | [OH-].[Pd+2].[OH-]
product | 2,2-dimethyl-2,3-dihydrobenzofuran-6-ol | 0.46 g, 88% | CC1(OC2=C(C1)C=CC(=C2)O)C | C10H12O2
